US04609666
α,α-Bis(4-chlorophenyl)-4H-1,2,4-triazole-3-methanol
A solution of 9.25 g of 1-(1,1-diethoxyethyl)-1,2,4-triazole in 150 ml of ether was treated first with 38.5 ml of 1.3M n-butyllithium in hexane and then with 12.6 g of 4,4'-dichlorobenzophenone in the same manner as Exaample 1. The mixture was added to ice and hydrochloric acid producing a white suspension which was recovered by filtration. The solid was recrystallized from 600 ml of methanol/200 ml of water to provide 11.52 g of the desired title product, m.p. 233°-234° C.

reactant | 1-(1,1-diethoxyethyl)-1,2,4-triazole | 9.25 g | C(C)OC(C)(OCC)N1N=CN=C1 | C8H15N3O2
reactant | n-butyllithium | 1.3M, 38.5 ml | C(CCC)[Li]
reactant | 4,4'-dichlorobenzophenone | 12.6 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H8Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | α,α-Bis(4-chlorophenyl)-4H-1,2,4-triazole-3-methanol | 11.52 g | ClC1=CC=C(C=C1)C(O)(C1=NN=CN1)C1=CC=C(C=C1)Cl | C15H11Cl2N3O
